US05767293
A mixture of 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (400 mg), p-nitrophenyl chloroformate (570 mg) and pyridine (1.37 ml) in dichloromethane (6 ml) was stirred for 3 hours at ambient temperature and then piperazine (1.0 g) was added thereto. After stirring at ambient temperature for half an hour, the mixture was treated with ethanesulfonyl chloride (183 mg). The reaction mixture was stirred for 15 minutes at 0° C. and for 3 hours at ambient temperature. The resulting mixture was diluted with diethyl ether and washed with 1N HCl, 1N NaOH and brine. The organic layer was dried and concentrated in vacuo to give a crude oil which was purified by silica gel column chromatography to yield 6-[4-(ethanesulfonyl)piperazin-1-ylcarbonyloxy]-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane as crystal.

reactant | 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 400 mg | OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C16H26O4
reactant | p-nitrophenyl chloroformate | 570 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | piperazine | 1.0 g | N1CCNCC1 | C4H10N2
reactant | ethanesulfonyl chloride | 183 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 1.37 ml | N1=CC=CC=C1 | C5H5N
product | 6-[4-(ethanesulfonyl)piperazin-1-ylcarbonyloxy]-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | C(C)S(=O)(=O)N1CCN(CC1)C(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C23H38N2O7S
